US05847127
To a solution of 2-formyl-5-undecylpyrrole (4 g; 16.03 mmols) and 4-methoxy-3-pyrrolin-2-one (3.63 g; 32.06 mmols) in DMSO (53 ml) 2N sodium hydroxyde (45 ml) is added under nitrogen atmosphere and the mixture is stirred at 60° C. for 8 hours. After dilution with water (200 ml) the yellow suspension is extracted with dichloromethane (600 ml). The organic phase is shacked with water and brine, anhydrified over anhydrous sodium sulphate and evaporated to dryness. The crude material is taken up in hexane and filtered to give 4-methoxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one (4.86 g; 14.11 mmols) as a yellow crystalline solid. Yield: 88%.

reactant | 2-formyl-5-undecylpyrrole | 16.03 mmols, 4 g | C(=O)C=1NC(=CC1)CCCCCCCCCCC | C16H27NO
reactant | 4-methoxy-3-pyrrolin-2-one | 32.06 mmols, 3.63 g | COC1=CC(NC1)=O | C5H7NO2
solvent | DMSO | 2N, 53 ml | CS(=O)C | C2H6OS
product | 4-methoxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one | 14.11 mmols, 4.86 g, Yield: 88% | COC1=CC(NC1=CC=1NC(=CC1)CCCCCCCCCCC)=O | C21H32N2O2
